US07786115B2
Methyl 4-methyl-3-[1-oxo-7-{[(trifluoromethyl)sulfonyl]oxy} isoquinolin-2(1H)-yl]benzoate (243 mg), palladium acetate (12 mg), BINAP (69 mg), and cesium carbonate (449 mg) were placed in a reaction tube under an atmosphere of argon. Toluene (2.5 ml) was added followed by N-methylpiperazine (0.183 ml) and the reaction mixture was stirred in a sealed tube at 95° C. for 16 hours. The reaction mixture was diluted with ethyl acetate and washed with water (2×), brine, dried (magnesium sulfate) and concentrated. Purification by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution gave methyl 4-methyl-3-[7-(4-methylpiperazin-1-yl)-1-oxoisoquinolin-2(1H)-yl]benzoate as a brown solid (189 mg); NMR Spectrum: (DMSOd6) 2.12 (s, 3H), 2.23 (s, 3H), 2.50 (m, 4H), 3.25 (m, 4H), 3.88 (s, 3H), 6.65 (d, 1H), 7.12 (d, 1H), 7.52-7.60 (m, 3H), 7.63 (d, 1H), 7.80 (s, 1H), 7.99 (d, 1H); Mass Spectrum: M+H+ 392.

reactant | Methyl 4-methyl-3-[1-oxo-7-{[(trifluoromethyl)sulfonyl]oxy} isoquinolin-2(1H)-yl]benzoate | 243 mg | CC1=C(C=C(C(=O)OC)C=C1)N1C(C2=CC(=CC=C2C=C1)OS(=O)(=O)C(F)(F)F)=O | C19H14F3NO6S
reactant | BINAP | 69 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 449 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylpiperazine | 0.183 ml | CN1CCNCC1 | C5H12N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4-methyl-3-[7-(4-methylpiperazin-1-yl)-1-oxoisoquinolin-2(1H)-yl]benzoate | 189 mg | CC1=C(C=C(C(=O)OC)C=C1)N1C(C2=CC(=CC=C2C=C1)N1CCN(CC1)C)=O | C23H25N3O3
